US07943652B2
To an ice cold mixture of (E)-3-(4-{(S)-1-[2-(3,5-dimethyl-1H-pyrazol-4-yl)-ethyl]-pyrrolidin-2-yl}-phenyl)-acrylic acid methyl ester (0.85 g, 2.4 mmol) and potassium hydride (115 mg, 2.88 mmol) in 4.0 mL tetrahydrofuran:dimethyl sulfoxide (9:1 v/v) was added 4-bromomethyltetrahydropyran (945 mg, 5.28 mmol). The mixture was slowly warmed to room temperature and stirred under nitrogen for 16 h. It was then quenched with aqueous ammonium chloride and added with ethyl acetate. The layers were separated and the organic layer was washed with more aqueous ammonium chloride. The aqueous layers were then washed with more ethyl acetate and the combined organic extracts were dried over magnesium sulfate and concentrated to a yellow oil. The oil was then purified via silica gel column chromatography (100:0 to 0:100 heptane:ethyl acetate) to give (E)-3-[4-((S)-1-{2-[3,5-dimethyl-1-(tetrahydro-pyran-4-ylmethyl)-1H-pyrazol-4-yl]-ethyl}-pyrrolidin-2-yl)-phenyl]-acrylic acid methyl ester (160 mg, 0.35 mmol, 14% yield) as a yellow oil. LC/MS (m/z): 452.5 (M+1).

reactant | (E)-3-(4-{(S)-1-[2-(3,5-dimethyl-1H-pyrazol-4-yl)-ethyl]-pyrrolidin-2-yl}-phenyl)-acrylic acid methyl ester | 2.4 mmol, 0.85 g | COC(\C=C\C1=CC=C(C=C1)[C@H]1N(CCC1)CCC=1C(=NNC1C)C)=O | C21H27N3O2
reactant | potassium hydride | 2.88 mmol, 115 mg | [H-].[K+]
reactant | 4-bromomethyltetrahydropyran | 5.28 mmol, 945 mg | BrCC1CCOCC1 | C6H11BrO
solvent | tetrahydrofuran dimethyl sulfoxide | 4.0 mL | O1CCCC1.CS(=O)C
product | (E)-3-[4-((S)-1-{2-[3,5-dimethyl-1-(tetrahydro-pyran-4-ylmethyl)-1H-pyrazol-4-yl]-ethyl}-pyrrolidin-2-yl)-phenyl]-acrylic acid methyl ester | 0.35 mmol, 160 mg, 14% yield | COC(\C=C\C1=CC=C(C=C1)[C@H]1N(CCC1)CCC=1C(=NN(C1C)CC1CCOCC1)C)=O | C27H37N3O3
